US04182881
A. N-[Dichlorophosphinyl]cinnamamide
Heated at 70° for 25 min. at which time the HCl gas evolution had ceased, a mixture of 59 g (0.4 mole) of cinnamide, 83.5 g (0.4 mole) of phosphorus pentachloride and 500 ml of AR carbon tetrachloride. After cooling to 30°, added dropwise, 19 g (0.4 mole) of 97% formic acid. Chilled to 0° and filtered. Air-dried to give 107.5 g, m.p. softens 82°, melts 83°-90°.

reactant | HCl | Cl | ClH
reactant | cinnamide | 0.4 mole, 59 g | C1=CC=C(C=C1)/C=C/C(=O)N | C9H9NO
reactant | phosphorus pentachloride | 0.4 mole, 83.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.4 mole, 19 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]cinnamamide | ClP(=O)(NC(C=CC1=CC=CC=C1)=O)Cl | C9H8Cl2NO2P
